US07625908B2
(2R)-N-{(1R)-2-[(4-{[3-Chloro-4-(1,3-thiazol-4-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2,4-dihydroxybutanamide
The procedure described in Example 63 was repeated using 5-{[(2R)-2-aminopropyl]oxy}-N-[3-chloro-4-(1,3-thiazol-4-ylmethoxy)phenyl]quinazolin-4-amine and (R)-(+)-α-hydroxy-γ-butyrolactone to give the title compound in 73% yield; NMR spectrum (DMSO-d6) 1.22 (d, 3H), 1.46-1.61 (m, 1H), 1.72-1.87 (m, 1H), 3.40-3.54 (m, 2H), 3.84-3.97 (m, 1H), 4.19-4.41 (m, 3H), 4.42-4.58 (m, 1H), 5.35 (s, 2H), 5.40 (d, 1H), 7.14 (d, 1H), 7.25-7.38 (m, 2H), 7.53 (dd, 1H), 7.72 (t, 1H), 7.80 (d, 1H), 7.92-8.05 (m, 2H), 8.47 (s, 1H), 9.14 (d, 1H), 9.75 (s, 1H); Mass spectrum MH+ 543.9.

reactant | 5-{[(2R)-2-aminopropyl]oxy}-N-[3-chloro-4-(1,3-thiazol-4-ylmethoxy)phenyl]quinazolin-4-amine | N[C@@H](COC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC=1N=CSC1)Cl)C | C21H20ClN5O2S
reactant | (R)-(+)-α-hydroxy-γ-butyrolactone | O[C@H]1C(=O)OCC1 | C4H6O3
product | (2R)-N-{(1R)-2-[(4-{[3-Chloro-4-(1,3-thiazol-4-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2,4-dihydroxybutanamide | 73% yield | ClC=1C=C(C=CC1OCC=1N=CSC1)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)NC([C@@H](CCO)O)=O | C25H26ClN5O5S
